### PR TITLE
[Merged by Bors] - feat: integral of product of indepent random variables

### PR DESCRIPTION
**Pull request by EtienneC30**
Move `Probability.Integration` into the `Independence` folder. Change the proof of [ProbabilityTheory.IndepFun.integral_mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Integration.html#ProbabilityTheory.IndepFun.integral_mul) to simplify it and generalize to an `RCLike` codomain.
Add a version for a finite product.
The actual diff starts at line 202, what is above was just moved without being touched (except the author line).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Independence/Integration.lean [hunk 1]
```diff
@@ -0,0 +1,322 @@
...
+      integral_map]
+    any_goals fun_prop
+    rw [(indepFun_iff_map_prod_eq_prod_map_map hX hY).1 hXY]
+    exact hf.comp_fst.mul hg.comp_snd
+  · rw [integral_undef h]
+    obtain h | h : ¬(Integrable (fun ω ↦ f (X ω)) μ) ∨ ¬(Integrable (fun ω ↦ g (Y ω)) μ) :=
+      not_and_or.1 fun ⟨HX, HY⟩ ↦ h (hfXgY.integrable_mul HX HY)
+    all_goals simp [integral_undef h]
+
+lemma IndepFun.integral_comp_mul_comp {𝓧 𝓨 : Type*} [MeasurableSpace 𝓧] [MeasurableSpace 𝓨]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Independence/Integration.lean]:
```suggestion
lemma IndepFun.integral_comp_mul_comp {𝓧 𝓨 : Type*} {_ : MeasurableSpace 𝓧} {_ : MeasurableSpace 𝓨}
```

File: Mathlib/Probability/Independence/Integration.lean [hunk 2]
```diff
@@ -0,0 +1,322 @@
...
+    simpa using hω
+  refine lt_top_iff_ne_top.2 fun H => ?_
+  have J : IndepFun (fun ω => ‖X ω‖ₑ : Ω → ℝ≥0∞) (fun ω => ‖Y ω‖ₑ : Ω → ℝ≥0∞) μ :=
+    IndepFun.comp hXY measurable_enorm measurable_enorm
+  have A : ∫⁻ ω, ‖X ω * Y ω‖ₑ ∂μ < ∞ := h'XY.2
+  simp only [enorm_mul] at A
+  rw [lintegral_mul_eq_lintegral_mul_lintegral_of_indepFun'' hX.enorm hY.enorm J, H] at A
+  simp only [ENNReal.mul_top I, lt_self_iff_false] at A
+
+lemma IndepFun.integral_fun_comp_mul_comp {𝓧 𝓨 : Type*} [MeasurableSpace 𝓧] [MeasurableSpace 𝓨]
```
Comment (RemyDegenne) [inline Mathlib/Probability/Independence/Integration.lean]:
```suggestion
lemma IndepFun.integral_fun_comp_mul_comp {𝓧 𝓨 : Type*} {_ : MeasurableSpace 𝓧} {_ : MeasurableSpace 𝓨}
```

**Review by RemyDegenne — APPROVED** [review]
Great!
bors d+

**Comment by EtienneC30** [comment]
Thanks!
bors merge
